US04086350
The Grignard reagent from 68 g. (0.4 m.) of 4-chloro-N-methylpiperidine hydrochloride and 9.7 g. (0.4 m.) of magnesium turnings in a total volume of 250 ml. of tetrahydrofuran is obtained following the procedure of Example 3. After all the halide is added, 75.6 g. (0.287 m.) of 2-trifluoromethylxanthone is added portionwise and refluxing/stirring are continued for one hour under nitrogen. The reaction mixture is quenched on ice-water-ammonium chloride to give 9-(1-methyl-4-piperidyl)-2-trifluoromethylxanthene-9-ol, m.p. 179°-183° C.

reactant | 4-chloro-N-methylpiperidine hydrochloride | Cl.ClC1CCN(CC1)C
reactant | magnesium | [Mg] | Mg
reactant | 2-trifluoromethylxanthone | FC(C1=CC=2C(C3=CC=CC=C3OC2C=C1)=O)(F)F | C14H7F3O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-(1-methyl-4-piperidyl)-2-trifluoromethylxanthene-9-ol | CN1CCC(CC1)C1(C2=CC=CC=C2OC=2C=CC(=CC12)C(F)(F)F)O | C20H20F3NO2
